US08258160B2
To a stirred solution of 3-methyl-2-thiophenecarboxylic acid (6.00 g, 42.20 mmol) in tetrahydrofuran (90 mL) under nitrogen atmosphere at −78° C. was added dropwise n-butyllithium (2.5 M solution in hexanes, 40.5 mL, 101.2 mmol). The resulting reaction mixture was stirred at the same temperature for 1 h, and then bromine (3.00 mL, 58.38 mmol) was added dropwise. After 1 h at −78° C. the cooling bath was removed, and the mixture was allowed to warm to ambient temperature during 1 h, and then quenched with water (100 mL). The aqueous layer was extracted with ethyl acetate (100 mL). The organic layer was washed with water (100 mL), and the combined aqueous layer was acidified at 0° C. with 37% aqueous hydrochloric acid to pH˜1-2. The aqueous layer was extracted with ethyl acetate (2×100 mL), and the combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with ethyl acetate in hexanes to afford 5-bromo-3-methylthiophene-2-carboxylic acid as a beige solid (3.44 g, 37%): 1H NMR (300 MHz, CDCl3) δ 6.94 (s, 1H), 2.52 (s, 3H); MS (ES−) m/z 219.1 (M−1), 221.1 (M−1).

reactant | 3-methyl-2-thiophenecarboxylic acid | 42.20 mmol, 6.00 g | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | n-butyllithium | 101.2 mmol, 2.5 M, 40.5 mL | C(CCC)[Li]
reactant | bromine | 58.38 mmol, 3.00 mL | BrBr | Br2
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
product | 5-bromo-3-methylthiophene-2-carboxylic acid | 3.44 g, 37% | BrC1=CC(=C(S1)C(=O)O)C | C6H5BrO2S
